US04270948
Preparation of α-[4-(4-Trifluoromethylphenoxy)phenoxy]propionanilide
34.5 g of α-[4-(4-trifluoromethylphenoxy)phenoxy]-propionyl chloride synthesized by a conventional method (as described in, for example, Synthetic Organic Chemistry, supra) from α-[4-(4-trifluoromethylphenoxy)phenoxy]propionic acid and thionyl chloride was dissolved in 200 ml of benzene, and while maintaining the solution at 20° to 25° C., 19.5 g of aniline was added. The reaction was performed at 30° C. for 1 hour. The reaction product was poured into 300 ml of water to precipitate and washed with water, and then dried with anhydrous sodium sulfate. After drying, benzene was evaporated off, and the residue was recrystallized from a mixture of ethanol and petroleum ether (2:1 by volume) to afford 36 g of the final product having a melting point of 129° to 131° C. The yield was 90%.

reactant | α-[4-(4-trifluoromethylphenoxy)phenoxy]-propionyl chloride | 34.5 g | FC(C1=CC=C(OC2=CC=C(OC(C(=O)Cl)C)C=C2)C=C1)(F)F | C16H12ClF3O3
reactant | α-[4-(4-trifluoromethylphenoxy)phenoxy]propionic acid | FC(C1=CC=C(OC2=CC=C(OC(C(=O)O)C)C=C2)C=C1)(F)F | C16H13F3O4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | aniline | 19.5 g | NC1=CC=CC=C1 | C6H7N
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | water | 300 ml | O | H2O
product | α-[4-(4-Trifluoromethylphenoxy)phenoxy]propionanilide | 36 g, yield was 90% | FC(C1=CC=C(OC2=CC=C(OC(C(=O)NC3=CC=CC=C3)C)C=C2)C=C1)(F)F | C22H18F3NO3
